US08557849B2
To a stirred solution of N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (10 g, 49.21 mmol, 1 eq.) in 250 ml of dioxanne, was added N-[6-(1-bromoethyl)pyridin-2-yl]-2,2-dimethylpropanamide (14 g, 49.21 mmol, 1 eq.), then was added cesium carbonate (16 g, 49.21 mmol, 1 eq.), and then was added potassium iodide (0.81 g, 4.92 mmol, 0.1 eq.). The reaction mixture was stirred for further 36 hrs. After evaporation of the solvent, the white residue was taken up with 200 ml of water, triturated and filtered, yielding to 2,2-dimethyl-N-{6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-yl}propanamide (19.7 g, 90% pure, 88% yield) after air-drying.

reactant | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 49.21 mmol, 10 g, 1 eq. | ON=C(C1=CC=CC=C1)C1=NN=NN1C | C9H9N5O
reactant | N-[6-(1-bromoethyl)pyridin-2-yl]-2,2-dimethylpropanamide | 49.21 mmol, 14 g, 1 eq. | BrC(C)C1=CC=CC(=N1)NC(C(C)(C)C)=O | C12H17BrN2O
reactant | cesium carbonate | 49.21 mmol, 16 g, 1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 4.92 mmol, 0.81 g, 0.1 eq. | [I-].[K+]
solvent | dioxanne | 250 ml | C1COCCO1 | C4H8O2
product | 2,2-dimethyl-N-{6-[1-({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)ethyl]pyridin-2-yl}propanamide | 19.7 g, 88% yield | CC(C(=O)NC1=NC(=CC=C1)C(C)ON=C(C1=CC=CC=C1)C1=NN=NN1C)(C)C | C21H25N7O2
